US07678820B2
To a solution of 4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole (80 mg) in DMF (0.80 ml) was added 60% NaH (8.7 mg) at 0° C., followed by stirring at room temperature for 0.5 hour. Methanesulfonyl chloride (21.1 μl) was added thereto at 0° C., followed by stirring at room temperature for 3 hours. To the reaction solution was added water (30 ml), followed by extraction three times with EtOAc (20 ml). The organic layer was combined, washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated. The filtrate was purified by silica gel column chromatography (automatic purifier, chloroform:CH3OH=100:0 to 98:2) to obtain 1-(methylsulfonyl)-4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole (15.6 mg) as a white solid.

reactant | 4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole | 80 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CNC2=CC=C1)(F)F | C20H13F6N3O2
reactant | NaH | 8.7 mg | [H-].[Na+]
reactant | Methanesulfonyl chloride | 21.1 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 30 ml | O | H2O
solvent | DMF | 0.80 ml | CN(C)C=O | C3H7NO
product | 1-(methylsulfonyl)-4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole | 15.6 mg | CS(=O)(=O)N1C=CC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C(F)(F)F)C)C(F)(F)F | C21H15F6N3O4S
